US07320995B2
1-isopropylsulfonyl-2-amino-6-(2-(formyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole
Add to a solution of 1-isopropylsulfonyl-2-amino-6-(1-(trimethylsilylethoxymethyl)-2-(formyl)-5-(phenyl)-imidazolyl)-benzimidazole (100 mg, 0.185 mmol) in ethanol (4 mL) HCl (37%, 4 mL) and stir at room temperature for 4 hours. Dilute the mixture with water (20 mL) and wash with EtOAc (3×10 mL). Add to the aqueous phase NaOH (15%) until pH=6-7 and extract the mixture with EtOAc (3×20 mL). Dry (MgSO4) the combined organic layers and concentrate in vacuo. Purify the residue in solid phase extraction (SPE) cartridge (Oasis™) and then by HPLC to obtain a white solid, 8 mg, 10% yield. MS(ES+): m/z=410 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-(1-(trimethylsilylethoxymethyl)-2-(formyl)-5-(phenyl)-imidazolyl)-benzimidazole | 0.185 mmol, 100 mg | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(N(C2C2=CC=CC=C2)COCC[Si](C)(C)C)C=O)N | C26H33N5O4SSi
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 1-isopropylsulfonyl-2-amino-6-(2-(formyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 10% yield | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C=O)N | C20H19N5O3S
